US05932571
Combine 1-(t-butoxycarbonyl)-4-(1H-benzimidazol-2-yl)[1,4]diazepane (0.5 g, 1.6 mmol) and dimethylformamide (20 mL). Add sodium hydride (0.08 g, 3.2 mmol). After 12 hours, add N-methyl-1-chloroacetamide (0.34 g, 3.14 mmol). After 12 hours, add N-methyl-1-chloroacetamide (0.17 g, 1.6 mmol). After 12 hours, heat to 70° C. After 4 hours, cool to ambient temperature and partition the reaction mixture between water (10 mL) and dichloromethane (100 mL). Separate the layers, dry the organic layer over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 1.2% methanol/dichloromethane/0.5% saturated aqueous ammonia solution to give 1-(t-butoxycarbonyl)-4-(1-(N-methylacetamido)-1H-benzimidazol-2-yl)[1,4]diazepane: Rf =0.24 (silica gel, 1.8% methanol/dichloromethane/0.5% saturated aqueous ammonia solution).

reactant | 1-(t-butoxycarbonyl)-4-(1H-benzimidazol-2-yl)[1,4]diazepane | 1.6 mmol, 0.5 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1)C=CC=C2 | C17H24N4O2
reactant | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 3.2 mmol, 0.08 g | [H-].[Na+]
reactant | methanol dichloromethane | CO.ClCCl
product | 1-(t-butoxycarbonyl)-4-(1-(N-methylacetamido)-1H-benzimidazol-2-yl)[1,4]diazepane | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1N(C(C)=O)C)C=CC=C2 | C20H29N5O3
